Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
c/f hemorrhage 
 
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
HPI: Ms. ___ is an ___ year old ambidextrous woman with
history of left thalamic stroke in setting of PFO, unspecified
hypercoagulable disorder, renal artery thrombosis (___) on
Coumadin, chronic migraine, HTN, HLD who presents with a 9 day
history of worsening headache. History provided by patient and
granddaughter.

Patient reports he was in his usual state of health until
___, when she developed acute onset of a headache in the
morning.  She was driving on the road and about to make a turn,
when all of a sudden she felt acute onset of a severe 10 out of
10 headache.  Headache is described as a shock like and 
throbbing
sensation, reaching maximum intensity within 1 minute.  It was
holocephalic, most prominent bifrontally.  Since that time,
headache has been persistent.  It does radiate down into her
neck.  She had difficulty sleeping as a result, and symptoms
would wake up from sleep with a throbbing headache.  With 
respect
to associated symptoms, she reported that her eyes felt as 
though
they were burning, and she had floaters as well.  She denied any
associated photophobia, diplopia, loss of vision , phonophobia,
vomiting.  She did have some nausea.  Headache was persistent
regardless of position, but did seem to be worsened with
movement.  No clear association with Valsalva.    

About 6 days ago, she went to urgent care. There, she had a CT
head without contrast which was reportedly unrevealing, as well
as ESR which was 29.  She was discharged with plans for 
neurology
follow-up.

Earlier this week, she saw an ophthalmologist who raise concern
for macular degeneration, but denied any acute process.  This 
was
outside of our system.

3 days ago, she followed up with her outpatient neurologist Dr.
___.  She had normal blood pressure and exam that was
consistent with her baseline.  However, Dr. ___
concern for her headache, particularly given that it awakens her
from sleep and is worsened with movement.  Today, she underwent
postcontrast MRI brain which revealed likely blood product in 
the
occipital horns of bilateral lateral ventricles, along with an
enhancing vascular structure in the left tentorial leaflet which
was concerning for a potential source of the hemorrhage.  As a
result, she was referred to emergency department for further
evaluation.

Currently, patient reports that she now has positive visual
phenomena, specifically that she sees "spirals" out of both 
eyes.
This is different than her typical migraine auras.  Otherwise,
she reports that the headache is persistent. It is improved
mildly with Tylenol, she reports this is "the only medicine I 
can
take for headache."  She reports that headache is been unchanged
since ___, neither improving nor worsening.  No new symptoms
over the last few days.

Prior to the above, patient denies any preceding trauma, new or
change medications, or recent illness.

Regarding her neurologic history:
-She has a long-standing history of headaches and migraines
dating back to when she was a teenager.  These are associated
with a visual aura of zigzag's, followed by a throbbing headache
that is improved with lying down in a dark room.  This 
particular
headache is much different than her baseline migraines.  She is
not on any prophylactic therapy.
-Patient has a history of multiple ischemic strokes.  Her first
stroke was at the age of ___, in ___.  She does not recall the
specific symptoms she presented with, apart from noting that she
fell on the floor and had a right facial droop.  She was found 
to
have a left thalamic infarct.  On exam, she had some persistent
visual spatial issues and mild left right confusion.
-Since her initial left thalamic stroke at age ___, patient has
had multiple other small ischemic strokes which has not had 
clear
clinical manifestations.  
-She has a history of a renal artery thrombosis, which was 
lysed.
She has been maintained on Coumadin for many years.
-She has a history of cervical spondylosis, for which she uses a
soft cervical collar.

On neuro ROS: 
+ Reports headache, positive visual phenomena, chronic right arm
weakness attributed to cervical spondylosis
- denies loss of vision, blurred vision, diplopia, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Denies difficulty with
gait.
 
On general review of systems:
+ Reports nausea and generally feeling ill
- denies recent fever or chills.  No night sweats or recent
weight loss or gain. Denies cough, shortness of breath.  Denies
chest pain or tightness, palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or
myalgias. Denies rash.

 
Past Medical History:
 
PMH: left thalamic stroke in setting of PFO, unspecified
hypercoagulable disorder, renal artery thrombosis (___) on
Coumadin, chronic migraine, HTN, HLD 
 
Social History:
___
Family History:
Family Hx: Mother died at age ___ of stroke and heart disease.
Father died in ___ of lung cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Physical Exam:
Vitals: T 96.9F, HR 75, BP 141/82, RR 14, O2 100% RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. Subtle R arm pronation
without drift. No adventitious movements, such as tremor, noted.
No asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5
R  5    ___    ___    5    5    5      5 

-Sensory: Reduction in vibration to ___ in great toes. No
deficits to light touch, pinprick, proprioception throughout. No
extinction to DSS. Romberg absent. 

-DTRs: 3+ and symmetric in RUE, 2+ in LUE, otherwise 2+ in legs.
Toes downgoing. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  She has difficulty walking in tandem. 

DISCHARGE PHYSICAL EXAM: 

General: elderly woman sitting in bed, appears comfortably, NAD
HEENT: NC/AT, MMM
Neck:  supple
Pulmonary: breathing comfortably on RA
Cardiac: warm, well-perfused
Abdomen: soft, ND
Extremities: wwp
Skin: no rashes or lesions noted.  

Neurologic: 
-MS: awake, alert, oriented to self, ___, date. Able to relate
history without difficulty. Language is fluent. No paraphasic
errors. Able to follow midline and appendicular commands. 
-CN: Pupils-R ___, irregular L 1.5-1. EOMI, no nystagmus.
Sensation equal b/l. face symmetric. Tongue
protrudes to midline. Symmetric palate elevation. 
-Motor. no pronator drift 
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [Ham] [TA] [Gas]
 L   5      5     5     5     5    5     5      5    5     5
 R   5      5     5     5     5    5     5      5    5     5
-Sensory: intact to light touch throughout. 
-Reflexes:  deferred
-Coordination: Intact FNF with intention tremor at end. No
dysmetria. 
-Gait: deferred. 
 
Pertinent Results:
___ 06:51AM BLOOD WBC-8.4 RBC-4.05 Hgb-13.0 Hct-38.8 MCV-96 
MCH-32.1* MCHC-33.5 RDW-13.3 RDWSD-47.3* Plt ___
___ 04:50PM BLOOD WBC-10.3* RBC-4.33 Hgb-13.8 Hct-41.5 
MCV-96 MCH-31.9 MCHC-33.3 RDW-13.3 RDWSD-47.2* Plt ___
___ 06:51AM BLOOD Neuts-76.5* Lymphs-14.8* Monos-7.2 
Eos-0.6* Baso-0.4 Im ___ AbsNeut-6.46* AbsLymp-1.25 
AbsMono-0.61 AbsEos-0.05 AbsBaso-0.03
___ 04:50PM BLOOD Neuts-74.4* Lymphs-18.9* Monos-5.8 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-7.64* AbsLymp-1.94 
AbsMono-0.59 AbsEos-0.03* AbsBaso-0.02
___ 06:51AM BLOOD Plt ___
___ 06:51AM BLOOD ___ PTT-28.0 ___
___ 04:50PM BLOOD Plt ___
___ 04:50PM BLOOD ___ PTT-36.7* ___
___ 06:51AM BLOOD Glucose-125* UreaN-16 Creat-0.8 Na-137 
K-3.6 Cl-97 HCO3-26 AnGap-14
___ 04:50PM BLOOD Glucose-117* UreaN-17 Creat-0.9 Na-132* 
K-4.2 Cl-94* HCO3-22 AnGap-16

Discharge labs:

___ 07:00AM BLOOD WBC-8.5 RBC-3.78* Hgb-12.6 Hct-36.8 
MCV-97 MCH-33.3* MCHC-34.2 RDW-13.6 RDWSD-48.2* Plt ___
___ 07:00AM BLOOD ___
___ 07:00AM BLOOD Glucose-94 UreaN-9 Creat-0.7 Na-141 K-4.0 
Cl-103 HCO3-26 AnGap-12
___ 07:00AM BLOOD Calcium-8.6 Phos-2.7 Mg-1.9

IMAGING: 
CTA HEAD AND NECK: The bilateral internal carotid and vertebral 
arteries are patent without flow-limiting stenosis, occlusion, 
or dissection. There is atherosclerotic calcification along 
bilateral carotid bulbs and bilateral carotid siphons. 
The vessels of the circle of ___ and their principal 
intracranial branches are patent without flow-limiting stenosis, 
occlusion, or aneurysm greater than 3 mm. 
  
CT Head ___:
1. Beam hardening artifact limits evaluation of pons and 
brainstem. 
2. Stable size and appearance of previously seen subacute 
intraventricular 
hematoma within the bilateral occipital horns. 
3. No new hemorrhage identified. 
4. Atrophy, probable small vessel ischemic changes, chronic left 
thalamic 
infarct and atherosclerotic vascular disease as described. 

CT Head ___:
1. In the region of blooming on gradient echo sequences on MRI 
from ___ at 14:28, in the bilateral occipital horns of 
lateral 
ventricles, there are subtle areas of increased density, which 
are isodense to 
cortex, and may represent subacute/chronic blood product. 
2. Global parenchymal loss and likely sequela of chronic 
microvascular 
ischemic disease. 

MRI Brain:
  
1. Findings most compatible with hemorrhage product layering 
within the 
occipital horns of the lateral ventricles.  There is no 
associated 
diffusion-weighted hyperintense signal or abnormal enhancement 
to suggest 
ventriculitis, although clinical correlation is recommended. 
2. The curvilinear enhancing presumed vascular structure in the 
posterior 
fossa along medial aspect of the left tentorial leaflet is seen 
on prior 
examination of ___.  This may represent etiology of hemorrhage. 
 Recommend 
further evaluation with CTA head. 
3. Otherwise, no evidence of abnormal enhancement.  No findings 
to suggest 
ventriculitis or meningitis. 
4. No evidence of acute infarction. 
5. There is increased tortuosity of the left-greater-than-right 
optic nerves 
with flattening of the sclera, minimally increased in prominence 
since ___, 
which potentially could represent intracranial hypertension.  
Clinical 
correlation is recommended. 
6. Additional findings as described above. 

 
Brief Hospital Course:
Brief Hospital Course: 

Ms. ___ is an ___ ambidextrous woman with a
history of left thalamic stroke in setting of detected PFO in 
___ though repeat echos since this time have not revealed any 
PFO,  renal artery thrombosis (___) on Coumadin in the 
outpatient setting, chronic migraine, HTN, HLD who initially 
presented with a 9 day history of worsening headache and 
evidence of intraventricular hemorrhage seen on MRI done by her 
outpatient neurologist Dr. ___. 

The patient initially had symptoms starting on ___. After 
continued headache she saw her Neurologist Dr. ___ 
ordered an MRI brain which revealed an intraventricular 
hemorrhage (in the occipital horns of the lateral ventricle) and 
was sent to ___ for further evaluation. 
She was evaluated by neurology in the ER and underwent a head ct 
which showed a stable bleed. Her INR was found to be 4.1 and she 
was given IV 5mg of vitamin K. She was then admitted to the 
stroke team for further evaluation. Her Coumadin which she was 
taking in the outpatient setting was discontinued given the 
hemorrhage. 

#Isolated IVH: 
-Patient found to have IVH on MRI. Two ct scans were done while 
the patient was in-house and revealed stable hemorrhage without 
expansion or new bleed. 
-She underwent a CTA head and neck to evaluate her vessels which 
were without pathology, no abnormal vessels entering near the 
lateral ventricles etc 
-Her Coumadin was held on arrival and patient was counseled that 
she is NOT to restart this medication in the future. 

#Persistent headache: 
-The patient had a persistent headache. She was given IV Tylenol 
and low dose oxycodone which helped her headache tremendously. 
She also had intermittent visual scotomas with the headache that 
dissipated with analgesic medications 
-On her first night of admission she felt weakness in her RLE 
and a dullness on her face prompting repeat CT scan which showed 
stable hemorrhage. The symptoms went away shortly after and did 
not return. Her headache was also particularly painful at the 
time of these symptoms, and likely thought to be a phenomenon of 
migraine 

#Dysphagia: 
-The patient was noted to choke with thin liquids and pills. A 
speech and swallow evaluation was ordered and the patient was 
noted to choke/aspirate thin liquids only. She was placed on a 
regular diet with nectar thickened liquids and was advised to 
take whole pills in thickened liquids
-She was set up with outpatient speech language pathology 
services upon discharge for follow-up 

#HTN: 
-Blood pressures remained stable during her hospitalization 

Transitional Issues: 
1. Please STOP taking Coumadin for good. No clear indication for 
anticoagulation and patient now with IVH. No clear PFO on echo 
2. Please take Tylenol as needed for pain for headache
3. Please follow up with your PCP ___ ___ weeks
4. Please follow up with your Neurologist Dr. ___ 
___ weeks
5. You have been set up with outpatient Speech/language 
Pathology to follow your swallowing 

AHA/ASA Core Measures for Intracerebral Hemorrhage  
 1. Dysphagia screening before any PO intake? (X) Yes - () No  
 2. DVT Prophylaxis administered? (X) Yes - () No  
 3. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]  
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
 5. Assessment for rehabilitation and/or rehab services 
considered? (X) Yes - () No  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 50-12.5 mg oral QAM 
2. Warfarin ___ mg PO DAILY 
3. Rosuvastatin Calcium 10 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 25 mg PO DAILY  
2.  Cyanocobalamin 1000 mcg PO DAILY  
3. HELD- Rosuvastatin Calcium 10 mg PO DAILY  This medication 
was held. Do not restart Rosuvastatin Calcium until 3 months

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute intraventricular hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 
 Dear Ms. ___,
 You were hospitalized due to symptoms of sudden headache 
resulting from an ACUTE HEMORRHAGE (BLEED), most likely caused 
by the Coumadin (warfarin) that you were taking. You underwent a 
few CT scans of your head which showed that the blood in your 
ventricles was staying the same and not getting worse  while you 
were here. You also underwent a CTA which is a test that looks 
at your blood vessels in your head which also looked very good 
and did not reveal any abnormalities that could explain the 
bleed in your ventricles. 

You also had episodes of vision changes with blue/black zigzags, 
when you had your headache, we thought these symptoms were most 
consistent with migraine. 

You also had episodes of low blood pressure and were symptomatic 
when you stood up. This was attributed to dehydration and 
deconditioning, we decreased your BP meds and gave you fluids 
and this improved. 

 We are changing your medications as follows:  
1. STOP taking Coumadin, no longer take this medication moving 
forward. 
2. STOP taking rosuvastatin (cholesterol medication) for 
3-months as this can make head bleeds worse
3. STOP taking hydrochlorothiazide and decrease your losartan to 
a half dose, these medications can be increased as needed by 
your PCP depending on how your blood pressures are after 
discharge. 

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

It was a pleasure taking care of you!

 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___